US08455491B2
Step 1.3. 6-(5-benzylhexahydropyrrolo[3,4-c]pyrrol-2-(1H)-yl)-2-(4-fluorophenyl)-3-pyridazin-4-ylimidazo[1,2-b]pyridazine
The mixture of 0.90 g (2.8 mmol) of 6-chloro-2-(4-fluorophenyl)-3-(pyridazin-4-yl)-imidazo[1,2-b]pyridazine and 1.7 g (8.3 mmol) of 5-benzyloctahydropyrrolo[3,4-c]pyrrole in 15 ml of pentanol is heated in a sealed tube at 150° C. for 18 hours. The reaction medium is poured into a 1N aqueous solution of hydrochloric acid and the aqueous phase is washed with ethyl acetate. The aqueous phase is then basified using aqueous sodium hydroxide and the product is extracted with dichloromethane. The organic phase is dried over sodium sulfate and then concentrated under reduced pressure. The product is chromatographed on a silica gel column, elution being carried out with a mixture of aqueous ammonia, methanol and dichloromethane (0.2/2/98), to give 1.2 g of solid in the form of an amorphous white foam.

reactant | 6-chloro-2-(4-fluorophenyl)-3-(pyridazin-4-yl)-imidazo[1,2-b]pyridazine | 2.8 mmol, 0.90 g | ClC=1C=CC=2N(N1)C(=C(N2)C2=CC=C(C=C2)F)C2=CN=NC=C2 | C16H9ClFN5
reactant | 5-benzyloctahydropyrrolo[3,4-c]pyrrole | 8.3 mmol, 1.7 g | C(C1=CC=CC=C1)N1CC2C(C1)CNC2 | C13H18N2
reactant | hydrochloric acid | Cl | ClH
solvent | pentanol | 15 ml | C(CCCC)O | C5H12O
product | 6-(5-benzylhexahydropyrrolo[3,4-c]pyrrol-2-(1H)-yl)-2-(4-fluorophenyl)-3-pyridazin-4-ylimidazo[1,2-b]pyridazine | 1.2 g | C(C1=CC=CC=C1)N1CC2C(C1)CN(C2)C=2C=CC=1N(N2)C(=C(N1)C1=CC=C(C=C1)F)C1=CN=NC=C1 | C29H26FN7
